### PR TITLE
feat(interpreter): replace `interpretOpList`

### PR DESCRIPTION
**Pull request by math-fehr**
This renames `interpretOpList` to `interpretOpChain`, and implements `interpretOpList` and `interpretTerminatedOpList` which now takes a list as input.

`interpretOpList` doesn't expect to terminate with a terminator, while `interpretTerminatedOpList` expects it.

These function is going to be very useful to prove the correctness of rewrites, and overall to reason about interpreting a basic block.

This PR also add lemmas about `interpretOpList` and `interpretTerminatedOpList`

### CODE REVIEW

File: Veir/IR/WellFormed.lean [hunk 1]
```diff
@@ -867,7 +867,9 @@ theorem RegionPtr.WellFormed_unchanged {regionPtr : RegionPtr}
     regionPtr.WellFormed ctx' := by
   constructor <;> grind [RegionPtr.WellFormed]
 
-noncomputable def BlockPtr.operationList (block : BlockPtr) (ctx : IRContext OpInfo) (hctx : ctx.WellFormed) (hblock : block.InBounds ctx) : Array OperationPtr :=
+noncomputable def BlockPtr.operationList (block : BlockPtr) (ctx : IRContext OpInfo)
+    (hctx : ctx.WellFormed := by grind) (hblock : block.InBounds ctx := by grind) :
+    Array OperationPtr :=
```
Comment (math-fehr) [inline Veir/IR/WellFormed.lean:872]: This adds default arguments for `hctx` and `hblock`, which were missing, and are used in this PR.

**Comment by axelcool1234** [comment]
Looking for obvious style mistakes / spell check / etc., I couldn't find anything!

**Review by luisacicolini — APPROVED** [review]

File: Veir/Interpreter/Basic.lean [hunk 2]
```diff
@@ -1146,25 +1146,62 @@ def interpretOp (op : OperationPtr) {ctx : WfIRContext OpCode} (state : Interpre
...
+    | some cf => return (state, cf)
+
+/--
+  Interpret a list of operations passed as a `List`, stopping at the first terminator.
+  Return the new interpreter state, and a control flow action indicating how to continue the
+  interpretation. If no terminator is encountered, return `none`.
+  Return `none` if any errors occur during interpretation.
+-/
+def interpretTerminatedOpList {ctx : WfIRContext OpCode} (ops : List OperationPtr)
+    (state : InterpreterState ctx)
```
Comment (ineol) [inline Veir/Interpreter/Basic.lean:1194]: Why not define it using `interpretOpList` and check if the second component is `none`?

Comment (math-fehr) [reply Veir/Interpreter/Basic.lean:1194]: Oops, I didn't see that indeed! Should be fixed now!

**Review by ineol — APPROVED** [review]

**Comment by math-fehr** [comment]
Last change broke some proofs, I'm just fixing them when I'm free
